US06329402B1
8-Isopropyl-4-methylquinoline-2-carbaldehyde
Methyl 8-isopropyl-4-methyl-2-quinolinecarboxylate was dissolved in 10 ml of tetrahydrofuran, followed by the dropwise addition of a 1M hexane solution of diisobutyl aluminum hydride at 0° C. under a nitrogen gas atmosphere. After stirring for 2 hours, saturated aqueous ammonium chloride was added to terminate the reaction. Water was added to the reaction mixture and the precipitate so formed was filtered. The filtrate was concentrated under reduced pressure, whereby 107 mg of 8-isopropyl-4-methylquinoline-2-methanol were obtained in the form of a colorless oil. Under a nitrogen gas stream, a solution of 210 μl of dimethyl sulfoxide in 0.5 ml of dichloromethane was added dropwise to a solution of 172 μl of oxalyl chloride in 1 ml of dichloromethane at −60° C. under a nitrogen gas stream, followed by stirring for 5 minutes. To the reaction mixture, a solution of 107 mg of 8-isopropyl-4-methyl-2-quinolinemethanol in 2 ml of dichloromethane was added dropwise, followed by stirring for 15 minutes, dropwise addition of 1 ml of triethylamine and stirring for 5 minutes. The reaction mixture was raised to room temperature and stirred for one hour. Water was added to the reaction mixture and the resulting solution was extracted with dichloromethane. The organic layer was successively washed with water and saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue so obtained was subjected to chromatography on a silica gel column (developing solvent:: 3% ethyl acetate/n-hexane), whereby 87 mg of the title compound were obtained in the form of a pale yellow solid.

reactant | dimethyl sulfoxide | 210 μl | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 172 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 8-isopropyl-4-methyl-2-quinolinemethanol | 107 mg | C(C)(C)C=1C=CC=C2C(=CC(=NC12)CO)C | C14H17NO
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
product | 8-Isopropyl-4-methylquinoline-2-carbaldehyde | 87 mg | C(C)(C)C=1C=CC=C2C(=CC(=NC12)C=O)C | C14H15NO
